US07696373B2
A solution of cyclohexanone oxime (3.11 g, 42.58 mmol) in methylene chloride (50 mL) was added dropwise with stirring to a solution of LTA (18.88 g, 42.58 mmol) and 4-nitrobenzoic acid (71.16 g, 425.8 mmol) in methylene chloride (300 mL) at 0° C. A blue color gradually appeared with the addition of the oxime. After 1 h at 0° C., the reaction mixture was warmed to room temperature. After 3 h at room temperature, water (50 mL) was added and the organic layer was extracted with water (2×50 mL) and 3% sodium bicarbonate solution (2×50 mL). The organic layer was dried over Na2SO4, the solvent evaporated and the residue was recrystalized in diethyl ether/petroleum ether (1:1) in a −5° C. freezer to give 1-Nitroso-1-para-nitrobenzoxypropane as bright blue crystals (25-30% yield): Rf 0.5 (pentane/ethyl acetate=20:1); 1H NMR (300 MHz, CDCl3) δ 1.69 (s, 6H), 8.31-8.48 (d, 4H); 13C NMR (300 MHz, CDCl3) δ 21.1 (2CH3), 122.6 (O—C—N), 124.0 (2Ph-CH), 131.4 (2Ph-CH), 135.6 (Ph-C), 151.2 (Ph-C), 162.9 (C═O).

reactant | cyclohexanone oxime | 42.58 mmol, 3.11 g | C1(CCCCC1)=NO | C6H11NO
reactant | 4-nitrobenzoic acid | 425.8 mmol, 71.16 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | water | 50 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-Nitroso-1-para-nitrobenzoxypropane | 25-30% yield | N(=O)C(CC)OCC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O4
